US09085583B2
A mixture of 2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxylic acid (60 mg, 0.22 mmol), 1-ethyl-3-(3-dimethyllaminopropyl)carbodiimide hydrochloride (65 mg, 0.34 mmol), N-hydroxybenzotrizole (180 mg, 1.33 mmol) and triethylamine (46 mg, 0.34 mmol) in dichloromethane (30 mL) was stirred for 30 minutes at room temperature. Then to the mixture, 3-(aminomethyl)-4,6-dimethyl pyridin-2-ol (33.44 mg, 0.22 mmol) was added. The resultant mixture was stirred at room temperature for 12 hours. Then the mixture was washed with water (20 mL×3). The organic layer was concentrated to give a residue which was purified by column chromatography (silica gel, dichloromethane/methanol=20:1) to give N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxamide (17 mg, 19%). LRMS (M+H+) m/z: calcd 401.19. found 401. HPLC purity (214 nm): 92%. 1H.NMR (300 MHz, CD3OD): δ 9.03 (s, 1H), 8.43 (s, 2H), 7.80-7.78 (m, 1H), 7.39-7.36 (m, 1H), 7.19-7.16 (m, 2H), 5.56 (s, 2H), 4.55 (s, 2H), 2.62 (s, 3H), 2.42 (s, 3H), 2.45 (s, 3H).

reactant | 2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxylic acid | 0.22 mmol, 60 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)CC=1C=NC=NC1 | C15H13N3O2
reactant | N-hydroxybenzotrizole | 1.33 mmol, 180 mg | C1=CC=C2C(=C1)N=NN2O.N
reactant | triethylamine | 0.34 mmol, 46 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)-4,6-dimethyl pyridin-2-ol | 0.22 mmol, 33.44 mg | NCC=1C(=NC(=CC1C)C)O | C8H12N2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxamide | 17 mg, 19% | CC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=CC=CC=C12)CC=1C=NC=NC1)C | C23H23N5O2
